US04539426
N-[3-[[2-(3,4-Dimethoxyphenyl)ethyl]methylamino]propyl]-N-(1-methylethyl)-3-(trifluoromethyl)benzenesulfonamide
N-(3-chloropropyl)-N-(1-methylethyl)-3-trifluoromethylbenzenesulfonamide (23.4 g, 0.068 mol) and N-methylhomoveratrylamine (13.29 g, 0.068 mol) in xylene (250 mL) containing anhydrous potassium carbonate (4.68 g, 0.034 mol) and cesium carbonate (11.08 g, 0.034 mol) were heated and stirred for 21/2 days. The reaction was cooled, filtered and stripped to provide a gum with a small amount of crystalline material evident. Solution in diethyl ether, filtration of the small amount of solid and concentration of the filtrate provided the crude product (32.91 g). Chromatography first on dry column alumina then silica gel provided the same product as in the preceding example (11.84 g) as a gum.

reactant | N-(3-chloropropyl)-N-(1-methylethyl)-3-trifluoromethylbenzenesulfonamide | 0.068 mol, 23.4 g | ClCCCN(S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)C(C)C | C13H17ClF3NO2S
reactant | N-methylhomoveratrylamine | 0.068 mol, 13.29 g | CNCCC1=CC(OC)=C(OC)C=C1 | C11H17NO2
reactant | potassium carbonate | 0.034 mol, 4.68 g | C([O-])([O-])=O.[K+].[K+]
reactant | cesium carbonate | 0.034 mol, 11.08 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | xylene | 250 mL | C=1(C(=CC=CC1)C)C | C8H10
product | N-[3-[[2-(3,4-Dimethoxyphenyl)ethyl]methylamino]propyl]-N-(1-methylethyl)-3-(trifluoromethyl)benzenesulfonamide | COC=1C=C(C=CC1OC)CCN(CCCN(S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)C(C)C)C | C24H33F3N2O4S
